US07759376B2
Step 2. Preparation of methyl 4′-amino-3-methoxybiphenyl-4-carboxylate
Iron powder (0.58 g, 10 mmol) was added to a solution of methyl 3-methoxy-4′-nitrobiphenyl-4-carboxylate (0.38 g, 1.0 mmol) in ethanol (10 mL). Concentrated HCl (0.52 mL, 1.0 mmol) was added, and the mixture was heated at reflux for 3 h. Upon cooling to rt, the mixture was filtered through a pad of Celite®, and the filtrate was concentrated in vacuo. The material was purified by column chromatography (33% EtOAc in hexanes), yielding 0.279 g (quantitative yield) of the title compound. LC/MS m/z 258.3 (MH+); retention time 1.65 min. 1H NMR (400 MHz, CD2Cl2) 3.81 (s, 3H), 3.99 (s, 3H), 6.78 (d, 2H), 7.15-7.19 (m, 2H), 7.45 (d, 2H), 7.80 (d, 1H).

reactant | methyl 3-methoxy-4′-nitrobiphenyl-4-carboxylate | 1.0 mmol, 0.38 g | COC=1C=C(C=CC1C(=O)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C15H13NO5
reactant | HCl | 1.0 mmol, 0.52 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Iron | 10 mmol, 0.58 g | [Fe] | Fe
product | methyl 4′-amino-3-methoxybiphenyl-4-carboxylate | 0.279 g, quantitative yield | NC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)OC | C15H15NO3
